US05665719
1-(1-Benzyl-4-piperidyl)indol-2-one
To a solution of 200 ml of methanol containing 2-aminophenylacetic acid (13.8 mmole), 1.82 ml (15.2 mmole) 1-benzyl-4-piperidone, and 4 ml acetic acid was added 20 g of 3 Angstrom molecular sieves and 1.91 g (30.4 mmole) of sodium triacetoxyborohydride at room temperature. The reaction mixture was protected from moisture and stirred overnight. After 12 hours, an additional 500 mg of sodium triacetoxyborohydride was added and stirring was continued for 4 hours more. Saturated sodium bicarbonate solution was added and most of the methanol was removed under reduced pressure. The aqueous solution was neutralized with acetic acid and extracted with ethyl acetate solution. The combined extracts were dried (sodium sulfate) and concentrated. Chromatography of the crude reaction product on silica gel (chloroform-methanol-concentrated ammonium hydroxide elution, 96:4:0.4, v/v) afforded 296 mg of a waxy solid. This material was dissolved in a solution of methanol and ether and treated with HCl gas. The resulting precipitate was collected, washed with ether and dried to give the title compound as a solid: m.p. 266°-270° C.

reactant | 2-aminophenylacetic acid | 13.8 mmole | NC1=C(C=CC=C1)CC(=O)O | C8H9NO2
reactant | 1-benzyl-4-piperidone | 15.2 mmole, 1.82 ml | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | sodium triacetoxyborohydride | 30.4 mmole, 1.91 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 500 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
solvent | ether | CCOCC | C4H10O
solvent | methanol | 200 ml | CO | CH4O
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | 1-(1-Benzyl-4-piperidyl)indol-2-one | C(C1=CC=CC=C1)N1CCC(CC1)N1C(CC2=CC=CC=C12)=O | C20H22N2O
